US04695575
A mixture of 0.75 parts of ethanethioamide, 7 parts of 1-bromo-4-[4-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]methyl]-1-piperidinyl]-2-butanone dihydrobromide and 80 parts of methanol was stirred overnight at room temperature. The reaction mixture was evaporated. Water was added. The whole was treated with sodium hydroxide. The product was extracted with dichloromethane. The extract was dried, filtered and evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol, saturated with ammonia, (97:3 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was further purified by column chromatography (HPLC) over silica gel using a mixture of hexane, trichloromethane and methanol (45:45:10 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was converted into the ethanedioate salt in ethanol and 2-propanone. The salt was filtered off and dried, yielding 2 parts (33%) of 1-[(4-fluorophenyl)methyl]-2-[[1-[2-(2-methyl-4-thiazolyl)ethyl]-4-piperidinyl]methyl]-1H-benzimidazole ethanediote(2:5); mp. 124.1° C. (459).

reactant | ethanethioamide | C(C)(N)=S | C2H5NS
reactant | 1-bromo-4-[4-[[1-[(4-fluorophenyl)methyl]-1H-benzimidazol-2-yl]methyl]-1-piperidinyl]-2-butanone dihydrobromide | Br.Br.BrCC(CCN1CCC(CC1)CC1=NC2=C(N1CC1=CC=C(C=C1)F)C=CC=C2)=O
solvent | methanol | CO | CH4O
product | 1-[(4-fluorophenyl)methyl]-2-[[1-[2-(2-methyl-4-thiazolyl)ethyl]-4-piperidinyl]methyl]-1H-benzimidazole | 33% | FC1=CC=C(C=C1)CN1C(=NC2=C1C=CC=C2)CC2CCN(CC2)CCC=2N=C(SC2)C | C26H29FN4S
